US05563141
A solution of 4-benzyloxyphenol (4.2 g) in dimethyl formamide (50 ml) was treated with sodium hydride (840 mg of a 60% dispersion), and the mixture stirred until evolution of gas ceased. There was then added ethyl 3-bromobutyrate (2.9 ml), and the solution stirred overnight. It was then poured into water (300 ml) and the mixture extracted with ether (3×50 ml). The combined extracts were washed with water (3×) and brine, dried (MgSO4) and evaporated to give a crude product as a brown oil (6 g). This was purified by chromatography on silica, eluting with hexane containing increasing amounts of ethyl acetate to give ethyl 3-(4-benzyloxyphenoxy)butyrate as a colourless crystalline solid (4.5 g) NMR (d6DMSO): δ1.25 (3H,t);1.8-2.0 (2H,m); 2.45 (2H,t); 3.9 (2H,t); 4.1 (2H,q); 5.0 (2H,s); 6.8-7.0 (4H,m); 7.4 (5H,m); m/e 314 (M+H)+.

reactant | 4-benzyloxyphenol | 4.2 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)O | C13H12O2
reactant | sodium hydride | [H-].[Na+]
reactant | ethyl 3-bromobutyrate | 2.9 ml | BrC(CC(=O)OCC)C | C6H11BrO2
reactant | water | 300 ml | O | H2O
solvent | dimethyl formamide | 50 ml | CN(C=O)C | C3H7NO
product | ethyl 3-(4-benzyloxyphenoxy)butyrate | 4.5 g | C(C1=CC=CC=C1)OC1=CC=C(OC(CC(=O)OCC)C)C=C1 | C19H22O4
